US06576645B1
a) (Z)-4-[4-(2-Imidazol-1-yl-ethoxy)phenyl]-3,4-diphenyl-but-3-en-1-ol
(Z)-4-[4-(2-Bromoethoxy)phenyl]-3,4-diphenylbut-3-en-1-ol (preparation described in U.S. Pat. No. 4,996,225) (4.97 g, 0.0117 mol) is dissolved in methyl ethyl ketone (50 ml) and potassium carbonate (4.8 g, 0.035 mol) and imidazole sodium salt (2.1 1 g, 0.0234 mol) is added to the solution. Mixture is stirred and refluxed for five hours. Then the solution is filtered and the filtrate is evaporated to dryness. The residue is dissolved in ethyl acetate, washed with 2 N aqueous sodium hydroxide solution and with water, dried and evaporated to dryness. The residue is recrystallized from the mixture of toluene and acetonitrile.

reactant | (Z)-4-[4-(2-Bromoethoxy)phenyl]-3,4-diphenylbut-3-en-1-ol | BrCCOC1=CC=C(C=C1)\C(=C(\CCO)/C1=CC=CC=C1)\C1=CC=CC=C1 | C24H23BrO2
reactant | potassium carbonate | 0.035 mol, 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole sodium salt | 0.0234 mol, 1 g | [Na].N1C=NC=C1
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | (Z)-4-[4-(2-Imidazol-1-yl-ethoxy)phenyl]-3,4-diphenyl-but-3-en-1-ol | N1(C=NC=C1)CCOC1=CC=C(C=C1)\C(=C(\CCO)/C1=CC=CC=C1)\C1=CC=CC=C1 | C27H26N2O2
